US08222296B2
Synthesis of Acetaminophen-Glycine Conjugate
A mixture of the acetaminophen (1 equivalent), an acyl chloride derivative of glycine (1.1 equivalents) and, optionally, Et3N (2 equivalents; used to free starting materials found as their HCl salts) is stirred in 5-10 ml DMF at room temperature, under nitrogen atmosphere, for 24 hours. The mixture is then extracted with ethyl acetate and water. The organic layer is thereafter washed with 5% NaHCO3 and brine, dried over MgSO4, filtered and evaporated, to thereby generate the acetaminophen-glycine conjugate.

reactant | acetaminophen | 1 equivalent | CC(=O)NC=1C=CC(=CC1)O | C8H9NO2
reactant | glycine | 1.1 equivalents | NCC(=O)O | C2H5NO2
reactant | Et3N | 2 equivalents | CCN(CC)CC | C6H15N
solvent | DMF | 5-10 ml | CN(C)C=O | C3H7NO
product | Acetaminophen Glycine | CC(=O)NC=1C=CC(=CC1)O.NCC(=O)O | InChI=1S/C8H9NO2.C2H5NO2/c1-6(10)9-7-2-4-8(11)5-3-7;3-1-2(4)5/h2-5,11H,1H3,(H,9,10);1,3H2,(H,4,5)
